US07378418B2
244B. Preparation of 2-Benzyl-5-chloro-4-methoxypyridazin-3(2H)-one
To a stirred solution of 2-benzyl-4,5-dichloropyridazin-3(2H)-one (73.1 g, 286.6 mmol) in 1,4-dioxane (700 mL) was added 25 wt. % solution of NaOMe in MeOH (72.0 mL, 315 mmol) at RT under argon over 15 min. The resultant dark reaction mixture was stirred at RT for 1.5 h. The solvent was evaporated and to the resultant residue was added water (500 mL). The aqueous mixture was extracted with methylene chloride (4×120 mL). The combined organic layers were washed with water (2×300 mL) and then by saturated aqueous NaCl (2×150 mL). The organic layer was dried over MgSO4, filtered and concentrated to obtain the crude product. This crude product was purified by silica gel column chromatography eluting with 30% EtOAc/hexanes to give the title compound, 2-benzyl-5-chloro-4-methoxypyridazin-3(2H)-one (56.0 g, 78%) as pale yellow oil. HPLC: 3.19 min; MS, M+H=251. 1H NMR (DMSO-d6, 500 MHz): δ 8.05 (1H, s), 7.26-7.34 (5H, m), 5.24 (2H, s), 4.15 (3H, s).

reactant | 2-benzyl-4,5-dichloropyridazin-3(2H)-one | 286.6 mmol, 73.1 g | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)Cl)Cl | C11H8Cl2N2O
reactant | NaOMe | C[O-].[Na+]
reactant | MeOH | 315 mmol, 72.0 mL | CO | CH4O
solvent | 1,4-dioxane | 700 mL | O1CCOCC1 | C4H8O2
product | 2-benzyl-5-chloro-4-methoxypyridazin-3(2H)-one | 56.0 g, 78% | C(C1=CC=CC=C1)N1N=CC(=C(C1=O)OC)Cl | C12H11ClN2O2
